US09062092B2
Compound 57d. 6-Vinyl-[1,4]dioxepane-6-carboxylic acid
To a stirred solution of 6-nitromethyl-6-vinyl-[1,4]dioxepane (214 mg, 1.14 mmol) in N,N-dimethylformamide (5 mL) under nitrogen was added acetic acid (684 mg, 652 μL, 11.4 mmol) and sodium nitrite (237 mg, 3.43 mmol). The mixture was heated at 40° C. for 23 h and allowed to cool. The mixture was acidified to pH 1 with hydrochloric acid (2 M) and the aqueous layer was extracted with diethyl ether (3×). The combined organic extracts were washed with water, dried over anhydrous magnesium sulfate, filtered, evaporated. Residual N,N-dimethylformamide was azeotroped off with toluene to give the title compound (79 mg, 40%) as a yellow gum. The original aqueous layer was saturated with sodium chloride and extracted with diethyl ether (3×) and the combined organic extracts were washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated. Residual N,N-dimethylformamide was azeotroped off with toluene to give the title compound (22 mg, 11%) as a yellow gum. The two gums were finally combined (101 mg, 51%). 1H NMR (300 MHz, CDC3) δ 3.76-3.93 (m, 4H), 3.88 (d, J=12.5 Hz, 2H), 4.35 (d, J=12.7 Hz, 2H), 5.26 (d, J=17.8 Hz, 1H), 5.27 (d, J=10.9 Hz, 1H), 5.79 (dd, J=17.4, 10.9 Hz, 1H). LCMS (m/z) 195.2 [M+Na], Tr=0.96 min.

reactant | 6-nitromethyl-6-vinyl-[1,4]dioxepane | 1.14 mmol, 214 mg | [N+](=O)([O-])CC1(COCCOC1)C=C | C8H13NO4
reactant | acetic acid | 11.4 mmol, 652 μL, 684 mg | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 3.43 mmol, 237 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-Vinyl-[1,4]dioxepane-6-carboxylic acid | 79 mg, 40% | C(=C)C1(COCCOC1)C(=O)O | C8H12O4
